US04954511
To 2.0 g of 10% palladium on carbon was added 6.0 g of 1-benzyl-4-(2,3,4,5,6-pentafluorophenoxy)piperidine hydrochloride in 250 ml of methanol. The reaction mixture was pressurized to 50 psi with hydrogen and shaken on a Parr apparatus at room temperature for five hours. The mixture was then filtered and concentrated. Recrystallization of the concentrate from hot isopropanol afforded 1.9 g (42%) of 4-(2,3,4,5,6-pentafluorophenoxy)piperidine hydrochloride, m.p. 187°-190° C.

reactant | 1-benzyl-4-(2,3,4,5,6-pentafluorophenoxy)piperidine hydrochloride | 6.0 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)OC1=C(C(=C(C(=C1F)F)F)F)F
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
solvent | methanol | 250 ml | CO | CH4O
product | 4-(2,3,4,5,6-pentafluorophenoxy)piperidine hydrochloride | 1.9 g, 42% | Cl.FC1=C(OC2CCNCC2)C(=C(C(=C1F)F)F)F | InChI=1S/C11H10F5NO.ClH/c12-6-7(13)9(15)11(10(16)8(6)14)18-5-1-3-17-4-2-5;/h5,17H,1-4H2;1H
